US04626540
A mixture of 28.0 g (0.20 mol) of p-phenetidine, 23.6 g (0.10 mol) of 2,6-dichloro-3-nitrobenzoic acid, and 80 ml of N,N-dimethylaniline was heated five hours on a steam bath. The resulting mixture was diluted with chloroform and extracted with 1N aq. NaOH. Acidification of the aqueous extract yielded 6-chloro-2-[4-ethoxyphenyl)amino]-3-nitrobenzoic acid as reddish brown crystals, mp 174°-176° C.

reactant | p-phenetidine | 0.20 mol, 28.0 g | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | 2,6-dichloro-3-nitrobenzoic acid | 0.10 mol, 23.6 g | ClC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | N,N-dimethylaniline | 80 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-nitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
